US08034812B2
Production of N-[6-(4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
In the same manner as in Example 257 and using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (210 mg, 0.65 mmol), 4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenol (240 mg, 0.97 mmol), potassium carbonate (220 mg, 1.6 mmol) and N,N-dimethylformamide (1.5 mL) as starting materials, the title compound (180 mg, 61%) was obtained as a brown solid.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.65 mmol, 210 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenol | 0.97 mmol, 240 mg | ClC1=C(C=C(C=C1)O)NCC1=CC(=NN1C)C | C12H14ClN3O
reactant | potassium carbonate | 1.6 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N-[6-(4-chloro-3-{[(1,3-dimethyl-1H-pyrazol-5-yl)methyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 180 mg, 61% | ClC1=C(C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C1)NCC1=CC(=NN1C)C | C22H22ClN7O2
